US06506747B1
6-(3-cyanopropyloxy)nicotinic acid, methyl ester (1.8 mmol) was dissolved in methanol/water (16 mL:4 mL) and treated with LiOH monohydrate (2.7 mmol). After stirring overnight, volatiles were removed and reaction neutralized with 1N sulfuric acid. The solid product was collected by filtration, washed with water and dried to give 6-(3-cyanopropyloxy)nicotinic acid (315 mg, 85%).

reactant | 6-(3-cyanopropyloxy)nicotinic acid, methyl ester | 1.8 mmol | C(#N)CCCOC1=NC=C(C(=O)OC)C=C1 | C11H12N2O3
solvent | methanol water | 16 mL | CO.O
product | 6-(3-cyanopropyloxy)nicotinic acid | 315 mg, 85% | C(#N)CCCOC1=NC=C(C(=O)O)C=C1 | C10H10N2O3
